US07192968B2
4-Ethoxycarbonyl-2-(trans-styryl)oxazole
Synthesis was conducted in accordance with the report (J. Org. Chem., 1996, Vol. 61, p. 6496) by Panek et al. Sodium hydrogencarbonate (22.8 g) and ethyl bromopyruvate (10.5 ml) were added to a solution of cinnamamide (10.0 g) in tetrahydrofuran (250 ml) at room temperature, and the mixture was heated under reflux for 48 hours. The reaction mixture was allowed to cool to room temperature, filtered through Celite and then concentrated under reduced pressure to obtain residue. Trifluoroacetic anhydride (30 ml) was added to a solution of this residue in tetrahydrofuran (30 ml) at 0° C., and the mixture was gradually warmed to room temperature. After the mixture was stirred for 63 hours, a saturated aqueous solution (500 ml) of sodium hydrogencarbonate and ethyl acetate (150 ml) were added to the reaction mixture, and an organic layer was separated. The water layer was extracted with ethyl acetate (150 ml). The organic layers were combined, washed with saturated saline (150 ml), dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:1→3:1) to obtain the title compound (10.9 g) as a colorless solid.

reactant | Sodium hydrogencarbonate | 22.8 g | C(O)([O-])=O.[Na+]
reactant | ethyl bromopyruvate | 10.5 ml | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | cinnamamide | 10.0 g | C(C=CC1=CC=CC=C1)(=O)N | C9H9NO
reactant | Trifluoroacetic anhydride | 30 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogencarbonate | 500 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 4-Ethoxycarbonyl-2-(trans-styryl)oxazole | 10.9 g | C(C)OC(=O)C=1N=C(OC1)\C=C\C1=CC=CC=C1 | C14H13NO3
